US07906660B2
7-Acetoxy-3′-methoxyisoflavone was prepared from 7-hydroxy-3′-methoxyisoflavone (1.7 g, 6.3 mmol), acetic anhydride (6 ml) and pyridine (1.0 ml) as described for 4′,7-diacetoxydaidzein. Yield: (1.6 g, 81%) m.p. 118° C. 1H NMR (CDCl3): δ 2.36 (s, 3H, OCOCH3), 3.85 (s, 3H, OMe), 6.95 (dd, 1H, J 2.0 Hz 8.3 Hz, H6), 6.70-7.40 (m, 5H, ArH), 8.01 (s, 1H, H2), 8.32 (d, 1H, J 8.7 Hz, H5).

reactant | 7-hydroxy-3′-methoxyisoflavone | 6.3 mmol, 1.7 g | OC1=CC=C2C(C(=COC2=C1)C1=CC(=CC=C1)OC)=O | C16H12O4
reactant | acetic anhydride | 6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1.0 ml | N1=CC=CC=C1 | C5H5N
product | 7-Acetoxy-3′-methoxyisoflavone | C(C)(=O)OC1=CC=C2C(C(=COC2=C1)C1=CC(=CC=C1)OC)=O | C18H14O5
